data/rdb19/train.csv
rxn,smiles,ea
4878,[C:15](=[C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21].[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])[H:7])[H:11])([H:8])([H:9])[H:10]>>[C:1]([O:2][C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:6])([H:7])[C:15]([C:16]([N:17]([C:18](=[O:19])[H:24])[H:23])[H:22])([H:20])[H:21])[H:11])([H:8])([H:9])[H:10],15.208286839886568
4972,[C:15]([C:16](=[O:17])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([O:5][C:6]([H:12])([H:13])[H:14])[C:19]([O:18][C:16]([C:15]([H:21])([H:22])[H:23])=[O:17])([C:20]([H:25])[H:26])[H:24])([H:10])[H:11])([H:7])([H:8])[H:9],15.878324448538478
900,[C:19]([C:20]([C:21]([H:22])[H:23])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:28])([H:29])[H:30].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([H:8])([H:9])([H:10])[C:21]([C:20]([C:19]([H:28])([H:29])[H:30])([O:24][C:25](=[O:26])[C:27]([H:32])([H:33])[H:34])[H:31])([H:22])[H:23].[C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12],57.92330065544229
3174,[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])([H:10])[H:11])([H:7])([H:8])[H:9].[C:21]([C:22]([C:23]([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39])([H:32])[H:33])([H:29])([H:30])[H:31]>>[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([C:5]([H:15])([H:16])[H:17])[C:6]([H:18])([H:19])[H:20])[H:10])([H:7])([H:8])[H:9].[H:11][C:23]([C:22]([C:21]([H:29])([H:30])[H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[C:25](=[O:26])[O:27][C:28]([H:37])([H:38])[H:39],26.90352103317855
161,[C:12]([C:13]([C:14]([C:15]([H:28])([H:29])[H:30])([c:16]1[c:17]([H:31])[c:18]([H:32])[c:19]([H:33])[c:20]([H:34])[c:21]1[H:35])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:6])([H:7])[H:8]>>[C:1](=[C:2]([C:3]([H:9])([H:10])[H:11])[C:4]#[N:5])([H:7])[H:8].[H:6][C:18]1([H:32])[C:17]([H:31])=[C:16]([C:14]([C:13]([C:12]([H:22])([H:23])[H:24])([H:25])[H:26])([C:15]([H:28])([H:29])[H:30])[H:27])[C:21]([H:35])=[C:20]([H:34])[C:19]1[H:33],44.87721338146366
4154,[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])([H:12])[H:13])([H:9])([H:10])[H:11].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([C:2](=[C:3]([C:4]([H:14])([H:15])[H:16])[C:5](=[O:6])[O:7][C:8]([H:17])([H:18])[H:19])[H:12])([H:9])([H:10])[H:11].[H:13][C:24]([O:23][C:21]([C:20]([H:26])([H:27])[H:28])=[O:22])([C:25]([H:30])[H:31])[H:29],38.11909343814477
2064,[C:11]([C:12]([C:13]([C:14]([H:23])([H:24])[H:25])[C:15](=[O:16])[O:17][H:26])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12]([C:13](=[C:14]([H:23])[H:24])[C:15](=[O:16])[O:17][H:26])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[H:25])[H:8])([H:6])[H:7],33.49538862152258
4289,[C:16]([C:17]([C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([O:2][C:3](=[O:4])[C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[O:20][C:21]([H:27])([H:28])[H:29])[H:25])([H:22])([H:23])[H:24].[C:1]([O:2][C:3]([O:4])([C:5](=[C:6]([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[H:26])([H:8])([H:9])[H:10],44.878359417954925
5170,[C:1]([C:2]([C:3]([C:4]([H:17])([H:18])[H:19])([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26]([C:27]([H:28])[H:29])([N:30]([C:31](=[O:32])[H:38])[H:37])[H:36])([H:33])([H:34])[H:35]>>[C:1]([C:2]([C:3]([c:5]1[c:6]([H:20])[c:7]([H:21])[c:8]([H:22])[c:9]([H:23])[c:10]1[H:24])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:25]([C:26](=[C:27]([H:28])[H:29])[N:30]([C:31](=[O:32])[H:38])[H:37])([H:33])([H:34])[H:35].[C:4]([H:17])([H:18])([H:19])[H:36],75.05917112500174
5266,[C:1]([C:2]([C:3]([H:4])[H:5])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21](=[C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])([H:26])[H:27]>>[C:1]([C:2]([C:3]([H:4])([H:5])[H:26])([c:6]1[c:7]([H:16])[c:8]([H:17])[c:9]([H:18])[c:10]([H:19])[c:11]1[H:20])[H:15])([H:12])([H:13])[H:14].[C:21](=[C:22]([N:23]([C:24](=[O:25])[H:30])[H:29])[H:28])[H:27],27.001943460665643
